US06924284B2
Succinic anhydride (14 mg, 0.14 mmol) and [3-(N-hydroxycarbamimidoyl)-phenyl]-carbamic acid tert-butyl ester (35 mg, 0.14 mmol) were dissolved in 0.25 mL DMF and heated at 120° C. for 2 h. The cooled solution was evaporated and dried to yield 3-[3-(3-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid which was used without further purification.

reactant | Succinic anhydride | 0.14 mmol, 14 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | [3-(N-hydroxycarbamimidoyl)-phenyl]-carbamic acid tert-butyl ester | 0.14 mmol, 35 mg | C(C)(C)(C)OC(NC1=CC(=CC=C1)C(NO)=N)=O | C12H17N3O3
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | 3-[3-(3-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)C1=NOC(=N1)CCC(=O)O | C16H19N3O5
